US07511035B2
(a) 1,1-dimethylethyl (2-{4-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]-1-piperazinyl}ethyl)carbamate
In a sealed tube, 8-bromo-7-fluoro-2-(methyloxy)-1,5-naphthyridine (1.1 g, 4.3 mmol), 1,1-dimethylethyl [2-(1-piperazinyl)ethyl]carbamate (1 g, 4.3 mmol), Pd2dba3 (271 mg, 0.262 mmol), rac-Binap (163 mg, 0.262 mmol), Cs2CO3 (2.98 mg, 9.2 mmol) and 18-C-6 (115 mg, 0.436 mmol) in dioxane (22 mL) were combined and flushed with N2. After 15 min, the tube was sealed and heated to 100° C. while stirring rapidly. After 12 h, the solution was filtered, concentrated and the residue purified via column chromatography (silica, 1% MeOH in DCM (1% NH4OH)) yielding the title compound (725 mg, 41%) as an orange oil: LCMS (ES) m/e 406 (M+H)+.

reactant | 8-bromo-7-fluoro-2-(methyloxy)-1,5-naphthyridine | 4.3 mmol, 1.1 g | BrC=1C(=CN=C2C=CC(=NC12)OC)F | C9H6BrFN2O
reactant | 1,1-dimethylethyl [2-(1-piperazinyl)ethyl]carbamate | 4.3 mmol, 1 g | N1(CCNCC1)CCNC(OC(C)(C)C)=O | C11H23N3O2
reactant | rac-Binap | 0.262 mmol, 163 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
reactant | Cs2CO3 | 9.2 mmol, 2.98 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dioxane | 22 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2dba3 | 0.262 mmol, 271 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1,1-dimethylethyl (2-{4-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]-1-piperazinyl}ethyl)carbamate | 725 mg, 41% | FC=1C=NC2=CC=C(N=C2C1N1CCN(CC1)CCNC(OC(C)(C)C)=O)OC | C20H28FN5O3
